US04335054
2,6-Bis-(2-ethoxycarbonylvinyl)-naphthalene
0.1683 g (0.75 millimol) of palladium acetate, 9.49 g (37.5 millimols) of naphthalene-2,6-dicarboxylic acid dichloride, 9.38 g (93.75 millimols) of ethyl acrylate and 13.89 g (75 millimols) of tri-n-butylamine, in 150 ml of p-xylene, are stirred for 2 hours at 120° C. The crude product is chromatographed on silica gel in methylene chloride, and is then recrystallised from cyclohexane. 4.11 g (34% of theory) of yellow crystals, of melting point 150°-51° C., are obtained. Analysis for C20H20O4 : calculated C 74.06%, H 6.22%, O 19.73%; found C 73.85%, H 6.41%, O 19.56%.

reactant | naphthalene-2,6-dicarboxylic acid dichloride | 37.5 millimols, 9.49 g | C1=C(C=CC2=CC(=CC=C12)C(=O)Cl)C(=O)Cl | C12H6Cl2O2
reactant | ethyl acrylate | 93.75 millimols, 9.38 g | C(C=C)(=O)OCC | C5H8O2
reactant | tri-n-butylamine | 75 millimols, 13.89 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | p-xylene | 150 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 0.75 millimol, 0.1683 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2,6-Bis-(2-ethoxycarbonylvinyl)-naphthalene | C(C)OC(=O)C=CC1=CC2=CC=C(C=C2C=C1)C=CC(=O)OCC | C20H20O4
